* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1058.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 10
V2 -V 0 -10
X§U1 IN+ N006 +V -V N007 LT1057
X§U2 IN- N004 +V -V N001 LT1057
X§U3 N005 N002 +V -V N003 LT1057
X§U4 Iout N008 +V -V N008 LT1057
R1 N002 N001 7.5K
R2 N005 N007 7.5K
R3 N003 N002 7.5K
R4 N008 N005 7.5K
R5 Iout N003 {Rx}
R6 N001 N004 4.7K
R7 N006 N007 4.7K
R8 N004 N006 9400
V3 IN- IN+ SINE(0 100m 100K)
V4 IN+ 0 SINE(0 1 10K)
R9 Iout 0 1K
.tran 300u
.param Rx=1K
* Iout=2*V(IN+,IN-)/Rx
* Current Output, High Speed, High Input Impedance Instrumentation Amplifier
.lib LTC.lib
.backanno
.end
